US07038075B2
Ethyl 3-hydroxy-3-(2-phenylethyl)hexanoate
Magnesium (1.98 g, 81.4 mmole) was suspended in THF (15 mL), and iodine (10 mg) was added thereto. To the suspension was added 1 mL from a mixture (total amount: 20 mL) of 1-phenyl-3-hexanone (8.93 g, 50.7 mmole) and ethyl chloroacetate (9.94 g, 81.1 mmole) at 25° C. in a thin stream. The mixture was stirred for 10 min and allowed to warm the internal temperature to 30° C. The remaining (19 mL) of the above-mentioned mixture (total amount: 20 mL) of 1-phenyl-3-hexanone and ethyl chloroacetate was added at 30° C.-40° C. over 2 hr in a thin stream. The mixture was stirred at 30° C. for 1 hr, and 10% hydrochloric acid (30 mL) was added for partitioning, which have a THF solution containing ethyl 3-hydroxy-3-(2-phenylethyl)hexanoate (10.2 g, 76%; quantified by absolute calibration curve method (external standard method) using HPLC).

reactant | Magnesium | 81.4 mmole, 1.98 g | [Mg] | Mg
reactant | iodine | 10 mg | II | I2
reactant | 1-phenyl-3-hexanone | 50.7 mmole, 20 mL, 8.93 g | C1(=CC=CC=C1)CCC(CCC)=O | C12H16O
reactant | ethyl chloroacetate | 81.1 mmole, 9.94 g | ClCC(=O)OCC | C4H7ClO2
reactant | hydrochloric acid | 30 mL | Cl | ClH
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | Ethyl 3-hydroxy-3-(2-phenylethyl)hexanoate | OC(CC(=O)OCC)(CCC)CCC1=CC=CC=C1 | C16H24O3
